US05610145
8-amino-octan-1-ol
8-Azido-octan-1-ol (1.99 g, 11.6 mmol) was dissolved in ethanol (25 mL) and Lindlar catalyst (200 mg) was added. The solution was hydrogenated at 50 psi, 30° C. for 2 hours. The catalyst was removed by filtration through Kieselguhr and the solvent was removed in vacuo to give a white solid 1.33 g (79% yield), mp 48°-53° C.;

reactant | 8-Azido-octan-1-ol | 11.6 mmol, 1.99 g | N(=[N+]=[N-])CCCCCCCCO | C8H17N3O
solvent | ethanol | 25 mL | C(C)O | C2H6O
catalyst | Lindlar catalyst | 200 mg | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
product | 8-amino-octan-1-ol | 1.33 g, 79% yield | NCCCCCCCCO | C8H19NO
